US08648201B2
100 mg (0.224 mmol) of 6-[2-(2-amino-5-iodopyridin-3-yl)-1H-benzimidazol-5-yl]-5-methyl-4,5-dihydro-2H-pyridazin-3-one, 252.2 mg (0.672 mmol) of 4-fluoro-5-tributylstannanyl-1H-pyrazole, 41.5 mg (0.045 mmol) of tris(dibenzylideneacetone)dipalladium(0), 23.5 mg (0.090 mmol) of triphenylphosphine, 28.5 mg (0.672 mmol) of lithium chloride and 8.5 mg (0.045 mmol) of copper iodide in 2 ml of dioxane are introduced into a nitrogen-filled reaction vessel. The mixture is stirred at 100° C. for 14 h under a nitrogen protective atmosphere. The reaction mixture is cooled to room temperature, and the solvent is removed. DCM and 2N HCl are added to the residue. The precipitate is separated off and washed with DCM/water. The precipitate is purified further via preparative RP-HPLC, giving 6-{2-[2-amino-5-(4-fluoro-2H-pyrazol-3-yl)pyridin-3-yl]-1H-benzimidazol-5-yl}-5-methyl-4,5-dihydro-2H-pyridazin-3-one; HPLC-MS [M+H]+ 405.2;

reactant | 6-[2-(2-amino-5-iodopyridin-3-yl)-1H-benzimidazol-5-yl]-5-methyl-4,5-dihydro-2H-pyridazin-3-one | 0.224 mmol, 100 mg | NC1=NC=C(C=C1C1=NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C)I | C17H15IN6O
reactant | 4-fluoro-5-tributylstannanyl-1H-pyrazole | 0.672 mmol, 252.2 mg | FC=1C=NNC1[Sn](CCCC)(CCCC)CCCC
reactant | triphenylphosphine | 0.090 mmol, 23.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 0.672 mmol, 28.5 mg | [Cl-].[Li+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.045 mmol, 41.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper iodide | 0.045 mmol, 8.5 mg | [Cu](I)I
product | 6-{2-[2-amino-5-(4-fluoro-2H-pyrazol-3-yl)pyridin-3-yl]-1H-benzimidazol-5-yl}-5-methyl-4,5-dihydro-2H-pyridazin-3-one | NC1=NC=C(C=C1C1=NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C)C=2NN=CC2F | C20H17FN8O
